US08877782B2
N-Cyclopropyl-6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 146d, 6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-nicotinic acid (200 mg, 0.64 mol) was converted, using cyclopropylamine instead of 2,2,2-trifluoroethylamine, to the title compound (trituration with tert-butylmethylether, 194 mg, 86%) which was obtained as a white solid. MS: m/e=351.3 [M+H]+.

reactant | 6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.64 mol, 200 mg | CC1=C(C(=NO1)C1=CC=NC=C1)COC1=NC=C(C(=O)O)C=C1 | C16H13N3O4
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | N-Cyclopropyl-6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-nicotinamide | 194 mg, 86% | C1(CC1)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=NC=C1)=O | C19H18N4O3
